US07091237B2
ethyl 2-(4-acetyl-2-methylphenoxy)-2-methylpropanoate
A suspension of 1-(4-hydroxy-3-methylphenyl)ethanone (20.1 g) in acetonitrile (200 ml) was added to a suspension of cesium carbonate (86.6 g) in acetonitrile (400 ml) and the mixture stirred under nitrogen at room temperature for 2 minutes. ethyl 2-bromo-2-methylpropanoate (33 g) was added and the mixture stirred for 25 hours, further ethyl 2-bromo-2-methylpropanoate (33 g) was added and the mixture stirred for a further 16 hours. The mixture was filtered and the filtrate concentrated to give an orange oil, the oil was dissolved in ethyl acetate and the solution washed thrice with 1M sodium hydroxide and brine. The organic layer was separated, dried over sodium sulfate, filtered and the filtrate concentrated; the resulting oil was purified by Biotage® chromatography eluting with cyclohexane:ethyl acetate (9:1) to give the title compound as a clear oil.

reactant | 1-(4-hydroxy-3-methylphenyl)ethanone | 20.1 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | cesium carbonate | 86.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-bromo-2-methylpropanoate | 33 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | ethyl 2-bromo-2-methylpropanoate | 33 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-acetyl-2-methylphenoxy)-2-methylpropanoate | C(C)(=O)C1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C15H20O4
